2143-02-21 07:59:00 Physician Resident Progress Note
Chief Complaint: Hyponatremia
   24 Hour Events:
 EKG - At [**2143-2-21**] 06:20 AM
   Quiet night- pt slept well.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2143-2-20**] 11:48 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt states mild abd pain relieved with percocet. No
   SOB or other pain at this time.
   Flowsheet Data as of  [**2143-2-21**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 62 (58 - 70) bpm
   BP: 125/59(75) {112/44(60) - 148/101(110)} mmHg
   RR: 14 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    240 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    850 mL
                                                                    185 mL
   Urine:
                                                                    100 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -610 mL
                                                                   -185 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   205 K/uL
   11.6 g/dL
   110 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.6 mEq/L
   11 mg/dL
   80 mEq/L
   110 mEq/L
   31.0 %
   15.0 K/uL
        [image002.jpg]
                             [**2143-2-21**]  04:36 AM
   WBC
   15.0
   Hct
   31.0
   Plt
   205
   Cr
   0.6
   TropT
   0.02
   Glucose
   110
   Other labs: PT / PTT / INR:13.3/32.5/1.1, CK / CKMB /
   Troponin-T:273/15/0.02, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 URINARY TRACT INFECTION (UTI)
   79M w/ pmh significant for SIADH, COPD, BPH s/p TURP, ulcerative
   colitis,  presenting with abdominal pain, diahrrea, leukocytosis, and
   severe hyponatremia.
   .
   #. Hyponatremia: Appears euvolemic on exam but history suggestive of
   hypovolemia. Also, U NA 20 low for SIADH and suggestive of loss from
   GI/ poor PO intake as etology. Etiologies of SIADH  incl induced by
   pain, pulmonary disease, SSRI. Goal for correction in this pt is .5
   Na/hr or 12 in 24 hrs.  Cortisol 31 on admission so unlikely adrenal
   insufficiency. TSH also normal. Other possible causes of SIADH that
   should be considered include pulmonary disease(CXR here looks good but
   CT in past has showed some chronic unchanged nodules) and intracranial
   abnormality incl SDH
   -PICC placed so able to give hypertonic saline and per renal will start
   3% saline at 30cc/hr.
   -Check Q 4hr lytes.
   -rpt UNa
   -appreciate renal recs
   -check CT head today  given possible confusion and h/o falls at home to
   r/o this as life-threatening cause of SIADH
   - Regular diet without fluid restrictions for now.
   .
   # Leukocytosis: Source most likely from urinary tract infection
   although also has diabetic foot ulcer.  Patient also with history of
   Ulcerative colitis and diverticulosis, however CT abdomen was negative
   for diverticulitis.
   -          cont Cipro/ flagyl but also adding Vanco today for foot
   -          f/u Urine and wound cultures
   .
   # s/p fall with poor rectal tone- Per urology, rectal tone not a side
   effect of TURP. Will d/w radiology any possible lumbal spine
   abnormalities seen on CT abd done in ED. If any question of
   abnormalities, will consider MRI lumbar spine
   .
   # Diabetic foot ulcer- Looks stage 3 here with some pus. Culture sent
   -f/u cx
   -Podiatry consulted
   -Vancomycin started to cover gram positive skin flora incl MRSA
   .
   # Incr CE- likely demand ischemia in setting of recent tachycardia
   without EKG changes but concerning given elevation of MBI and trop with
   falling CK
   - cycle CE today
   .
   #.BPH: s/p TURP, on tamsulosin. Will FYI urology today
   .
   #. Depression: holding fluoxetine given SIADH. Will need to investigate
   other possible antidepressants given then seems to be helping pt as
   well as risks of continuing it once Na has stabilized.
   .
   #.Hypertension: Holding lisinopril per renal, will use hydralazine PRN
   for BP control.
   .
   #.COPD: Continue albuterol
   .
   #.Diabetes: Insulin sliding scale, aspirin
   .
   #.Peripheral Neuropathy: Continue neurontin
   .
   #.Osteoarthritis: continue lidocaine patch and percocet
   ICU Care
   Nutrition: Regular diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2143-2-20**] 09:17 PM
   PICC placed today
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU while on hypertonic saline

2143-02-22 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 79M w/ pmh significant for SIADH, COPD, BPH s/p TURP,
   ulcerative colitis,  presenting with abdominal pain, diahrrea,
   leukocytosis, and severe hyponatremia.
   24 Hour Events:
 PICC LINE - START [**2143-2-21**] 08:00 AM
   - started on hypertonic saline
   - was hypotensive in a.m. to SBP 80s, pulse 60.  Responded to 1L NS.
   Had three subsequent episodes of hypotension and was fluid responsive.
   However, urine osmoles still high and urine sodium low.  Talked to
   renal and outcome of boluses and urine lytes was that patient was in
   fact likely hypovolemic, as his pressures finally improved and urine
   osmolality fell, with a concurrent rise in serum sodium, after adequate
   volume ressucitation.
   - podiatry: Multipodus boots, unlikely to be infected, cont vanc
   pending cx data, will staff in a.m.
   - stopped hypertonic saline in a.m. to slow correction rate per surgery
   - put patient in for ECHO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-2-21**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-22**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 66 (54 - 68) bpm
   BP: 138/63(80) {76/27(45) - 143/66(81)} mmHg
   RR: 17 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,363 mL
                                                                  1,107 mL
   PO:
                                                                    800 mL
                                                                    490 mL
   TF:
   IVF:
                                                                  3,563 mL
                                                                    617 mL
   Blood products:
   Total out:
                                                                    772 mL
                                                                    715 mL
   Urine:
                                                                    772 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,591 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   158 K/uL
   10.6 g/dL
   86 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.1 mEq/L
   14 mg/dL
   96 mEq/L
   119 mEq/L
   28.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2143-2-21**]  04:36 AM
                             [**2143-2-21**]  09:43 AM
                             [**2143-2-21**]  02:13 PM
                             [**2143-2-21**]  06:26 PM
                             [**2143-2-21**]  10:46 PM
                             [**2143-2-22**]  04:04 AM
   WBC
   15.0
   12.8
   Hct
   31.0
   28.7
   Plt
   205
   158
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   TropT
   0.02
   0.02
   0.02
   Glucose
   110
   175
   99
   148
   86
   Other labs: PT / PTT / INR:13.3/32.5/1.1, CK / CKMB /
   Troponin-T:152/11/0.02, Lactic Acid:0.8 mmol/L, LDH:327 IU/L, Ca++:7.3
   mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   79M w/ pmh significant for SIADH, COPD, BPH s/p TURP, ulcerative
   colitis,  presenting with abdominal pain, diahrrea, leukocytosis, and
   severe hyponatremia.
   #. Hyponatremia: Appears euvolemic on exam but history suggestive of
   hypovolemia. Also, U NA 20 low for SIADH and suggestive of loss from
   GI/ poor PO intake as etology. Etiologies of SIADH  incl induced by
   pain, pulmonary disease, SSRI. Goal for correction in this pt is .5
   Na/hr or 12 in 24 hrs.  Cortisol 31 on admission so unlikely adrenal
   insufficiency. TSH also normal. Other possible causes of SIADH that
   should be considered include pulmonary disease(CXR here looks good but
   CT in past has showed some chronic unchanged nodules) and intracranial
   abnormality incl SDH
   -PICC placed so able to give hypertonic saline and per renal will start
   3% saline at 30cc/hr.
   -Check Q 4hr lytes.
   -rpt UNa
   -appreciate renal recs
   -check CT head today  given possible confusion and h/o falls at home to
   r/o this as life-threatening cause of SIADH
   - Regular diet without fluid restrictions for now.
   # Leukocytosis: Source most likely from urinary tract infection
   although also has diabetic foot ulcer.  Patient also with history of
   Ulcerative colitis and diverticulosis, however CT abdomen was negative
   for diverticulitis.
   - cont Cipro/ flagyl but also adding Vanco today for foot
   - f/u Urine and wound cultures
   # s/p fall with poor rectal tone- Per urology, rectal tone not a side
   effect of TURP. Will d/w radiology any possible lumbal spine
   abnormalities seen on CT abd done in ED. If any question of
   abnormalities, will consider MRI lumbar spine
   # Diabetic foot ulcer- Looks stage 3 here with some pus. Culture sent
   -f/u cx
   -Podiatry consulted
   -Vancomycin started to cover gram positive skin flora incl MRSA
   # Incr CE- likely demand ischemia in setting of recent tachycardia
   without EKG changes but concerning given elevation of MBI and trop with
   falling CK
   - cycle CE today
   #.BPH: s/p TURP, on tamsulosin. Will FYI urology today
   #. Depression: holding fluoxetine given SIADH. Will need to investigate
   other possible antidepressants given then seems to be helping pt as
   well as risks of continuing it once Na has stabilized.
   #.Hypertension: Holding lisinopril per renal, will use hydralazine PRN
   for BP control.
   #.COPD: Continue albuterol
   #.Diabetes: Insulin sliding scale, aspirin
   # Peripheral Neuropathy: Continue neurontin
   #.Osteoarthritis: continue lidocaine patch and percocet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-2-21**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2143-02-23 08:06:00 Physician Resident Progress Note
Chief Complaint: Hyponatremia
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2143-2-22**] 09:48 AM
   -Echocardiogram showed mild LVH w/hyperdynamic left ventricular global
   and regional systolic function. Moderate pulmonary HTN.  Very small
   circumferential pericardial effusion
   -Repeat Na came back at 118 so wrote for salt tabs and no fluids, then
   went to 125 at next check (4 hrs later but result didn't come back till
   4 hours afterward)
   -Had ? hallucinations in the AM and then clear delusions overnight
   (fire trucks and getting stuck in bed)
   -Got 0.5 haloperidol overnight for delusional thinking and some
   agitation/paranoia
   -switched abx coverage of UTI to ceftriaxone as resistant to
   ciprofloxacin
   -Should call and discuss d/c foley w/ urology in AM as resistant
   organism and long term placement
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-2-22**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt denies pain, SOB. Seems confused, talking about
   firemen outside his window.
   Flowsheet Data as of  [**2143-2-23**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 75 (57 - 84) bpm
   BP: 137/54(74) {101/45(62) - 155/104(111)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,432 mL
                                                                    240 mL
   PO:
                                                                  1,330 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,102 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                    620 mL
   Urine:
                                                                  2,145 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    287 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : at bases bilat, faint)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2. Unsure of date, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   182 K/uL
   10.6 g/dL
   122 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   9 mg/dL
   93 mEq/L
   120 mEq/L
   29.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2143-2-21**]  04:36 AM
                             [**2143-2-21**]  09:43 AM
                             [**2143-2-21**]  02:13 PM
                             [**2143-2-21**]  06:26 PM
                             [**2143-2-21**]  10:46 PM
                             [**2143-2-22**]  04:04 AM
                             [**2143-2-22**]  11:17 AM
                             [**2143-2-22**]  06:42 PM
                             [**2143-2-23**]  04:59 AM
   WBC
   15.0
   12.8
   12.0
   Hct
   31.0
   28.7
   29.4
   Plt
   [**Telephone/Fax (3) 4412**]
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TropT
   0.02
   0.02
   0.02
   Glucose
   110
   175
   99
   148
   86
   178
   112
   122
   Other labs: PT / PTT / INR:13.3/32.5/1.1, CK / CKMB /
   Troponin-T:152/11/0.02, Lactic Acid:0.8 mmol/L, LDH:327 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 URINARY TRACT INFECTION (UTI)
   79M w/ pmh significant for SIADH, COPD, BPH s/p TURP, ulcerative
   colitis,  presenting with abdominal pain, diarrhea, leukocytosis, and
   severe hyponatremia.
   #. Hyponatremia:  Patient
s urine osmolality was initially high
   (500-600) with a low urine sodium of less than 20.  We initially
   corrected his sodium with hypertonic sodium but also gave him NS
   boluses for hypotension, as he had risk factors for volume depletion at
   presentation (decreased po intake).  Other potential etiologies of
   SIADH include pain, recent surgery (TURP), pulmonary disease, and his
   SSRI.  Goal for correction in this pt is .5 Na/hr or 12 in 24 hrs.
   Cortisol and TSH also normal.  Sodium corrected more rapidly in a.m. of
   [**2143-2-22**] after total correction of hypovolemia, with a subsequent fall
   in urine osmolality and a rise in urine sodium.
   - goal sodium over 24 hours <= 124
   - PICC placed for 3% hypertonic saline but holding for now given
   improvement already
   - Check Q 4hr lytes
   - NS as needed for hypovolemia
   - f/u renal reccs
   - Regular diet without fluid restrictions for now.
   # Diabetic foot ulcer/?Abdominal infection:  Patient
s leukocytosis
   most likely from urinary tract infection although also has diabetic
   foot ulcer.  Patient also with history of Ulcerative colitis and
   diverticulosis, however CT abdomen was negative for diverticulitis.
   - cont Cipro for UTI and f/u cultures
   - cont vancomycin until foot cultures are negative
   - f/u podiatry reccs
   - will d/c flagyl
   # S/p fall with ?poor rectal tone:  Per urology, rectal tone not a side
   effect of TURP.  No evidence of acute spinal stenosis on abdominal CT.
    - continue to evaluate for any evidence of LE weakness
   #. BPH: s/p TURP, on tamsulosin.  Urology aware.
   #. Depression:  holding fluoxetine given SIADH. Will need to
   investigate other possible antidepressants given then seems to be
   helping pt as well as risks of continuing it once Na has stabilized.
    #.Hypertension: Holding lisinopril per renal, will use hydralazine PRN
   for BP control.
   #.COPD: Continue albuterol
   #.Diabetes: Insulin sliding scale, aspirin
   # Peripheral Neuropathy: Continue neurontin
   #.Osteoarthritis: continue lidocaine patch and percocet
   ICU Care
   Nutrition: reg diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2143-2-21**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2143-02-23 10:43:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Confused overnight and got Haldol
 Na was stable about 120
   3% shut off
 getting salt tabs. Nephrology following
   Fluid restricted 1.5L
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2143-2-22**] 09:48 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2143-2-23**] 07:37 AM
   Ceftazidime - [**2143-2-23**] 08:37 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-23**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 73 (57 - 84) bpm
   BP: 145/66(85) {101/51(63) - 155/104(111)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,432 mL
                                                                    730 mL
   PO:
                                                                  1,330 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,102 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,145 mL
                                                                    780 mL
   Urine:
                                                                  2,145 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    287 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Gen: alert, sitting up in bed,
   CV: RR
   Chest: CTA
   Abd: Soft NT
   Ext: no edema
   Neuro: alert, conversant and approproate but has a fixed delusion about
   fireman in the room
 [**Doctor Last Name **] detailed. That said he can state weher he
   is.
   Labs / Radiology
   10.6 g/dL
   182 K/uL
   217
   0.7 mg/dL
   21 mEq/L
   3.7 mEq/L
   9 mg/dL
   93 mEq/L
   120 mEq/L
   29.4 %
   12.0 K/uL
        [image002.jpg]
                             [**2143-2-21**]  04:36 AM
                             [**2143-2-21**]  09:43 AM
                             [**2143-2-21**]  02:13 PM
                             [**2143-2-21**]  06:26 PM
                             [**2143-2-21**]  10:46 PM
                             [**2143-2-22**]  04:04 AM
                             [**2143-2-22**]  11:17 AM
                             [**2143-2-22**]  06:42 PM
                             [**2143-2-23**]  04:59 AM
                             [**2143-2-23**]  08:00 AM
   WBC
   15.0
   12.8
   12.0
   Hct
   31.0
   28.7
   29.4
   Plt
   [**Telephone/Fax (3) 4412**]
   Cr
   0.6
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TropT
   0.02
   0.02
   0.02
   Glucose
   110
   175
   99
   148
   86
   178
   112
   122
   217
   Other labs: PT / PTT / INR:13.3/32.5/1.1, CK / CKMB /
   Troponin-T:152/11/0.02, Lactic Acid:0.8 mmol/L, LDH:327 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 URINARY TRACT INFECTION (UTI)
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points.
   1. There is a combination of appropriate and inappropriate ADH release
   in this gentleman with Na down to 110 on admission without mental
   status change. He has had diarrhea and concerns regarding left foot
   ulcer. He is in pain in the back from falls sustained at home, all of
   which could have potentiated Na drop. He needs 3% NS and then fluid
   restriction with or without demeclocycline to keep SIADH component in
   check. He may also have a reset osmostat at baseline. His SSRI will be
   held and switched to another mood stabilizing [**Doctor Last Name 23**]. Podiatry
   consultation has been requested and head CT will be ordered to r/o
   intracranial pathology. He has agreed to PICC placement for short term
   he may leave ICU in next 24 hours if he remains coherent and
   hemodynamically stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2143-2-21**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:
   Code status: Full code
   Disposition :
   Total time spent:

2143-02-24 08:37:00 Physician Resident Progress Note
Chief Complaint: hyponatremia
   24 Hour Events:
 PICC LINE - STOP [**2143-2-23**] 11:02 AM
   [**2143-2-23**]
   - per renal, started salt tabs TID, fluid restrictions on diet. No
   further need for hypertonic saline
   - Pt pulled out PICC but has PIVs,
   - Urology wants to keep in foley. Thinks likely colonized with E coli
   seen on urine culture
   -Na: 11p 119-> 5a 120 -> 11a 123-> 5p 125
   -  Throughout day, pt oriented x3 but has fixed delusion re fireman
   coming to his room last night. By 7p, having new hallucinations and
   delusions incl of water coming off ceiling. Gave .5 Haldol at 9p
   - MRSA contact precautions ordered for positive nasal swab
   ____________________________________
   [**2143-2-24**]
   -On tele at 12:30am, went into A fib (no known h/o a fib) when MD
   notified at 2:30, IV access re-established. Pt given 5 Metoprolol IV
   x4, Haldol .5 IV x2
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2143-2-23**] 08:37 AM
   Vancomycin - [**2143-2-23**] 08:30 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2143-2-24**] 03:15 AM
   Haloperidol (Haldol) - [**2143-2-24**] 03:15 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain, no SOB. Feeling well
   Flowsheet Data as of  [**2143-2-24**] 08:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 92 (68 - 135) bpm
   BP: 145/70(90) {112/59(76) - 156/94(152)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,189 mL
                                                                     30 mL
   PO:
                                                                    720 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    469 mL
                                                                      0 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,240 mL
   Urine:
                                                                  1,970 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -781 mL
                                                                 -1,210 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, Tone:
   Normal
   Labs / Radiology
   260 K/uL
   12.5 g/dL
   193 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   11 mg/dL
   92 mEq/L
   125 mEq/L
   35.5 %
   15.7 K/uL
        [image002.jpg]
                             [**2143-2-21**]  06:26 PM
                             [**2143-2-21**]  10:46 PM
                             [**2143-2-22**]  04:04 AM
                             [**2143-2-22**]  11:17 AM
                             [**2143-2-22**]  06:42 PM
                             [**2143-2-23**]  04:59 AM
                             [**2143-2-23**]  08:00 AM
                             [**2143-2-23**]  12:00 PM
                             [**2143-2-23**]  06:00 PM
                             [**2143-2-24**]  03:50 AM
   WBC
   12.8
   12.0
   15.7
   Hct
   28.7
   29.4
   35.5
   Plt
   158
   182
   260
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TropT
   0.04
   Glucose
   99
   148
   86
   178
   112
   122
   [**Telephone/Fax (3) 4437**]
   193
   Other labs: PT / PTT / INR:13.3/32.5/1.1, CK / CKMB /
   Troponin-T:227/9/0.04, Lactic Acid:0.8 mmol/L, LDH:327 IU/L, Ca++:8.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 URINARY TRACT INFECTION (UTI)
   79M w/ pmh significant for SIADH, COPD, BPH s/p TURP, ulcerative
   colitis,  presenting with abdominal pain, diarrhea, leukocytosis, and
   severe hyponatremia.
   #. Hyponatremia:  Patient
s urine osmolality was initially high
   (500-600) with a low urine sodium of less than 20.  We initially
   corrected his sodium with hypertonic sodium but also gave him NS
   boluses for hypotension, as he had risk factors for volume depletion at
   presentation (decreased po intake).  Other potential etiologies of
   SIADH include pain, recent surgery (TURP), pulmonary disease, and his
   SSRI.  Goal for correction in this pt is .5 Na/hr or 12 in 24 hrs.
   Cortisol and TSH also normal.  Sodium corrected more rapidly in a.m. of
   [**2143-2-22**] after total correction of hypovolemia, with a subsequent fall
   in urine osmolality and a rise in urine sodium.  Now, pt likely close
   to baseline at 125.
   - cont salt tabs TID, fluid restrict
   - Check [**Hospital1 **] Na
   - f/u renal reccs
   # Diabetic foot ulcer/?Abdominal infection:  Patient
s leukocytosis
   most likely from urinary tract infection although also has diabetic
   foot ulcer.  Patient also with history of Ulcerative colitis and
   diverticulosis, however CT abdomen was negative for diverticulitis.
   - d/c  ceftriaxone for UTI as urology thinks e-coli in urine cultures
   is likely a contaminant
   - cont vancomycin until foot cultures are negative
   - f/u podiatry reccs
   .
   # A fib- Pt with episode of A fib o/n. Did not initially convert to 5
   metoprolol IV x4. ? Etiology. Possibly in setting of adrenergic surge
   and hallucinations. Broke without other tx this am although did get
   12.5 PO metoprolol O/N. Needs to continue to be on tele. If has A fib
   again, consider PO betablocker and cards consult. Trop this am slightly
   up to 0.04 from 0.02 likely [**1-28**] demand although EKGs overnight without
   any st-t changes. Recommend following CE on floor.
   .
   # [**Name (NI) 4442**] Pt is oriented x3 during hallucinatory episodes but has
   exhibited signs of sundowning 2 nights in a row with delusions and
   hallucinations which pt maintains occurred in am. Also, unable to sleep
   in at least 2 nights. Haldol .5 mg IV x3 overnight did not help. Will
   consider Trazodone for sleep in  future.  Need to continue to monitor.
   Pt has corrected Na appropriately so unlikely AMS related to this.
   # S/p fall with ?poor rectal tone:  Per urology, rectal tone not a side
   effect of TURP.  No evidence of acute spinal stenosis on abdominal CT.
    - continue to follow for any evidence of LE weakness
   #. BPH: s/p TURP, on tamsulosin.  Urology aware.
   #. Depression:  holding fluoxetine given SIADH. Will need to
   investigate other possible antidepressants given then seems to be
   helping pt as well as risks of continuing it once Na has stabilized.
   For now, delusions/ hallucinations not c/w SSRI withdrawl
    #.Hypertension: Holding lisinopril per renal, will use hydralazine PRN
   for BP control.
   #.COPD: Continue albuterol
   #.Diabetes: Insulin sliding scale, aspirin
   # Peripheral Neuropathy: Continue neurontin
   #.Osteoarthritis: continue lidocaine patch and percocet
   ICU Care
   Nutrition:  regular diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2143-2-24**] 02:35 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2143-02-24 09:28:00 Physician Attending Progress Note
Chief Complaint: hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2143-2-23**] 11:02 AM
   Overnight agitation with delusions of water pouring off the ceiling
   Afib at 130's overnight: converted with IV and po metoprolol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2143-2-24**] 07:30 AM
   Vancomycin - [**2143-2-24**] 08:40 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2143-2-24**] 03:15 AM
   Haloperidol (Haldol) - [**2143-2-24**] 03:15 AM
   Other medications:
   Neurontin, eye drops, ASA, insulin SS, Lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-2-24**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 86 (68 - 135) bpm
   BP: 141/65(82) {112/59(76) - 156/94(152)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,189 mL
                                                                    280 mL
   PO:
                                                                    720 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    469 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,240 mL
   Urine:
                                                                  1,970 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -781 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Gen: sitting up in bed, eating bfast
   CV: rr
   Chest: CTA
   Abd: soft NT
   Ext: rigth hand is wrpapped with IV
   Neuro: conversant, knoiws it is his daughters [**Name (NI) 4440**], still some
   delusions about firemen but not upset by it
   Labs / Radiology
   12.5 g/dL
   260 K/uL
   193 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   11 mg/dL
   92 mEq/L
   125 mEq/L
   35.5 %
   15.7 K/uL
        [image002.jpg]
                             [**2143-2-21**]  06:26 PM
                             [**2143-2-21**]  10:46 PM
                             [**2143-2-22**]  04:04 AM
                             [**2143-2-22**]  11:17 AM
                             [**2143-2-22**]  06:42 PM
                             [**2143-2-23**]  04:59 AM
                             [**2143-2-23**]  08:00 AM
                             [**2143-2-23**]  12:00 PM
                             [**2143-2-23**]  06:00 PM
                             [**2143-2-24**]  03:50 AM
   WBC
   12.8
   12.0
   15.7
   Hct
   28.7
   29.4
   35.5
   Plt
   158
   182
   260
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   TropT
   0.04
   Glucose
   99
   148
   86
   178
   112
   122
   [**Telephone/Fax (3) 4437**]
   193
   Other labs: PT / PTT / INR:13.3/32.5/1.1, CK / CKMB /
   Troponin-T:227/9/0.04, Lactic Acid:0.8 mmol/L, LDH:327 IU/L, Ca++:8.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 DELIRIUM / CONFUSION
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 URINARY TRACT INFECTION (UTI)
   1.       HypoNatremia: stable now in the 125 range, will fluid restrict
   and continue salt tabs, trend [**Hospital1 **]. Appreciate Nephrology input/
   2.       Parox Afib: 1^st episode last night in setting of agitation
   that resolved with bblockade
 this us eof po bblocker can be
   reconsidered if Afib not recurs in  light of risk of exacerbating
   depression w bblockers
   3.      Delusions: DDx would be delirium from ICU itself, lack of
   sleep, agitated depression
 try low dose Zyprexa and reorientation
   4.      Podiatry: Vanco for MRSA foot infection
   5.      UTI: appreciate Urology consultation, chronic infection, d/c
   Ceftraixone
   Remaining issues as per Housestaff note s
   ICU Care
   Nutrition: fluid restrict
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-2-24**] 02:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with pt and dtr
   [**Name (NI) 129**] status: DNR / DNI
   Disposition :Transfer to floor
 acute [**Female First Name (un) **] with likely [**Female First Name (un) **] psych
   consult in AM